US07902191B2
(6-Benzylamino-5,6,7,8-tetrahydro-naphthalen-2-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone is prepared from benzyl-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-amine and (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine in a manner substantially analogous to Procedure A. (See herein Example 1). Starting material, benzyl-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-amine, can be prepared from 6-bromo-2-tetralone and benzylamine in a manner substantially analogous to Preparation 1. Mass spectrum (APCI) 418 (M++1).

reactant | benzyl-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-amine | C(C1=CC=CC=C1)NC1CC2=CC=C(C=C2CC1)Br | C17H18BrN
reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | 6-bromo-2-tetralone | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (6-Benzylamino-5,6,7,8-tetrahydro-naphthalen-2-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | C(C1=CC=CC=C1)NC1CC=2C=CC(=CC2CC1)C(=O)N1C(CCC1)CN1CCCC1 | C27H35N3O
